US07544812B2
3-(4-Benzyloxy-phenyl)-2-hydroxy-2-methyl-propionic acid ethyl ester:
Boron trifluoride etherate was added to a 0° C. solution of 3-(4-Benzyloxy-phenyl)-2,3-dihydroxy-2-methyl-propionic acid ethyl ester (12.9 g, 38.96 mmol) and triethylsilane (28 mL, 175.3 mmol, d=0.728) in anhydrous CH2Cl2, then the reaction is allowed to gradually warm to ambient temperature over 3 h. The reaction is quenched with a saturated aqueous solution of sodium bicarbonate and extracted with additional CH2Cl2. The organic layer is dried, concentrated, and separated by chiral chromatography to provide the title compound (11.7 g, 96%). 1H NMR (400 MHz, CDCl3): δ 7.44-7.33 (m, 5H), 7.12 (d, 2H, J=6.85 Hz), 6.90 (d, 2H, J=6.85 Hz), 5.04 (s, 2H), 4.22-4.14 (m, 2H), 3.03 (d, 1H, J=13.69 Hz), 2.87 (d, 1H, J=13.69 Hz), 1.48 (s, 3H), 1.27 (t, 3H, J=7.34 Hz). Rf=0.60 in 50% acetone in hexanes.

reactant | Boron trifluoride etherate | B(F)(F)F.CCOCC
reactant | 3-(4-Benzyloxy-phenyl)-2,3-dihydroxy-2-methyl-propionic acid ethyl ester | 38.96 mmol, 12.9 g | C(C)OC(C(C(O)C1=CC=C(C=C1)OCC1=CC=CC=C1)(C)O)=O | C19H22O5
reactant | triethylsilane | 175.3 mmol, 28 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-(4-Benzyloxy-phenyl)-2-hydroxy-2-methyl-propionic acid ethyl ester | 11.7 g, 96% | C(C)OC(C(CC1=CC=C(C=C1)OCC1=CC=CC=C1)(C)O)=O | C19H22O4
